US07105548B2
3-(1-Hydroxy-2-nitroethyl)benzonitrile (3.32 g, 17.3 mmol) and triethylamine (4.37 g, 43.2 mmol) were stirred in anhydrous dichloromethane (100 mL) at 0° C. To the resulting solution was added methanesulfonyl chloride (2.77 g, 24.2 mmol) dropwise via syringe, after which time the reaction was warmed to ambient temperature and stirred for 15 min. The resulting reaction mixture was diluted with additional dichloromethane (200 mL) and partitioned with H2O (100 mL). The dichloromethane layer was dried (MgSO4), filtered and concentrated in vacuo. The resulting crude residue was filtered through silica gel eluting with hexane:EtOAc (4:1) to afford 3-[(E)-2-nitroethenyl]benzonitrile as a yellow solid.

reactant | 3-(1-Hydroxy-2-nitroethyl)benzonitrile | 17.3 mmol, 3.32 g | OC(C[N+](=O)[O-])C=1C=C(C#N)C=CC1 | C9H8N2O3
reactant | triethylamine | 43.2 mmol, 4.37 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 24.2 mmol, 2.77 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | 3-[(E)-2-nitroethenyl]benzonitrile | [N+](=O)([O-])/C=C/C=1C=C(C#N)C=CC1 | C9H6N2O2
